US04348264
Pivaloyloxymethyl 1-Hydroxy-2-methyl-6-(2-phenoxyacetamido)carbapenam-3-carboxylate
By the procedures of Examples 3 and 6, pivaloyloxymethyl 2-methyl-1-oxo-6-(2-phenoxyacetamido)carbapenam-3-carboxylate (102 mg., 0.23 mmole) in 3 ml. of methylene chloride was reduced by the action of tetrabutylammonium borohydride (15 mg., 0.06 mmole) and isolated to yield purified pivaloyloxymethyl 1-hydroxy-2-methyl-6-(2-phenoxyacetamido)carbapenam-3-carboxylate [68 mg.; Rf 0.26 (4:1 chloroform:ethyl acetate; ir (CH2Cl2) 1775, 1750, 1675 cm-1 ].

reactant | pivaloyloxymethyl 2-methyl-1-oxo-6-(2-phenoxyacetamido)carbapenam-3-carboxylate | 0.23 mmole, 102 mg | CC1C([C@H]2N(C1C(=O)OCOC(C(C)(C)C)=O)C(C2NC(COC2=CC=CC=C2)=O)=O)=O | C22H26N2O8
reactant | tetrabutylammonium borohydride | 0.06 mmole, 15 mg | [BH4-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | Pivaloyloxymethyl 1-Hydroxy-2-methyl-6-(2-phenoxyacetamido)carbapenam-3-carboxylate | OC1C(C(N2[C@H]1C(C2=O)NC(COC2=CC=CC=C2)=O)C(=O)OCOC(C(C)(C)C)=O)C | C22H28N2O8
